US04269750
57.6 g of trimellitic acid anhydride.
275 g of a polyester of 1.0 mol of terephthalic acid, 0.38 mol of glycerol and 0.72 mol of glycol having a hydroxyl group content of about 6.0% by weight and catalytic quantities of lead acetate and butyl titanate at 150° C. After a final condensation for from 4 to 6 hours at from 200° to 220° C., 2724 g of a clear, pale reddish brown, brittle, solid resin having a resin content of 90.3% (according to DIN) and a viscosity of 22 070 mPa s as determined in a 50% solution of γ-butyrolactone at 20° C. are obtained.

reactant | terephthalic acid | 1.0 mol | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | glycerol | 0.38 mol | OCC(O)CO | C3H8O3
reactant | lead acetate | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
catalyst | butyl titanate | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | trimellitic acid anhydride | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
